US04594345
To 2.47 grams of 2-hydroxy-3-propenylpropiophenone are added 6.65 grams of p-methoxybenzoyl chloride and one half of 6.88 grams of anhydrous sodium p-methoxybenzoate, the mixture is heated in a nitrogen stream and, when 2-hydroxy-3-propenyl-propiopheone is dissolved, the residue of anhydrous sodium p-methoxybenzoate is added thereto, and the mixture is stirred at 180° to 190° C. for five hours. After cooled, the mixture is dissolved in ethyl acetate, the solution is washed with 10% sodium hydroxide solution and with water, and dried with anhydrous magnesium sulfate and finally the solvent is evaporated therefrom to give 3.0 grams of 4'-methoxy-3-methyl-8-propenylflavone, colorless needles, melting point 169° to 171° C.

reactant | 2-hydroxy-3-propenylpropiophenone | 2.47 grams | OC(C(=O)C1=CC=CC=C1)CC=CC | C12H14O2
reactant | p-methoxybenzoyl chloride | 6.65 grams | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | sodium p-methoxybenzoate | 6.88 grams | COC1=CC=C(C(=O)[O-])C=C1.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4'-methoxy-3-methyl-8-propenylflavone | 3.0 grams | COC1=CC=C(C=2OC3=C(C=CC=C3C(C2C)=O)C=CC)C=C1 | C20H18O3
